Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-7.1763579035800005
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][C:2]([H:3])=[O:4],0.7071117652590001
[C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.43743912087
[H:1][C:2][O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14].[H:3]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],-4.068195537869999
[C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1]=[C:2]=[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],-6.7965727126
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12],4.56235435225
[H:1][C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:2][O:3][C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11].[H:1],3.6877126954800006
[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2](=[O:3])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-0.609789419458
[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3],2.06931413473
[H:1].[O:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9]>>[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[H:9],-0.7926604485969999
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])[C:11]([H:12])([H:13])[H:14],4.21126922681
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3](=[C:4][H:5])[C:12]([H:13])([H:14])[H:15],6.18522535943
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],2.7820401559500003
[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:13].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:10]([H:11])[H:12],4.52866011303
[C:4]([H:5])=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-6.4269842554
[H:1][C:2]#[C:3][O:4][C:5]=[O:6].[H:7]>>[H:1][C:2]#[C:3][O:4][C:5][O:6][H:7],-2.68082691739
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8]>>[C:2]#[C:3][C:4]([H:5])([H:6])[O:7][H:8].[H:1],6.02826293801
[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13],3.71393997679
[O:1]=[C:2]([C:3]([H:4])[H:5])[C:6]([H:7])[H:8]>>[C:2](=[C:3]([H:4])[H:5])=[C:6]([H:7])[H:8].[O:1],3.1946071126599995
[C:4]([H:5])#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],1.76033214
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([O:9][H:10])=[C:11]([H:12])[H:13],-3.86818470001
[H:13].[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])[H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@:4]([H:5])([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.94828096706
[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])[O:5][H:6]>>[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-3.89631621186
[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[O:1][O:2][C:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[H:11],4.60385421782
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([O:4][H:5])=[C:6][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14].[H:7],5.00771378181
[H:1][O:2][C:3]([H:4])([H:5])[O:6]/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])[H:13]>>[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]=[C:11]([H:12])[H:13],2.02407961231
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:8][H:9].[H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][H:9],-4.15855230867
[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10][H:11],5.1683179373
[C:1]#[C:2][C:3](=[O:4])[C:5]([H:6])([H:7])[H:8]>>[C:1][C:2]#[C:3][C:5]([H:6])([H:7])[H:8].[O:4],5.10085474057
